US07598398B2
Step A. Ethyl 5-[(trifluoromethyl)oxy]-1-[4-(trifluoromethyl)phenyl]-1H-indole-2-carboxylate
To a vial containing ethyl 5-trifluoromethoxyindole-2-carboxylic acid (500 mg, 1.83 mmol) were added 4-iodobenzotrifluoride (323 mg, 2.20 mmol), potassium phosphate (815 mg, 3.84 mmol), copper iodide (17.5 mg, 0.092 mmol), and trans N,N′-dimethyl-1,2-cyclohexanediamine (0.058 mL, 0.37 mmol). The resulting mixture was purged with N2, and degassed toluene (2 mL) was added. The reaction mixture was capped, placed in a 110° C. bath, and was stirred for 18 h. Upon cooling to room temperature, the mixture was filtered and concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 30% then 30 to 100% EtOAc in hexanes) gave the title compound: LCMS A, tr=4.28 min, m/z 418.1 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 7.80 (d, J=8.5 Hz, 2H), 7.60 (s, 1H), 7.48 (s, 1H), 7.47 (d, J=8.5 Hz, 2H), 7.17 (dd, J=9.0, 1.5 Hz, 1H), 7.07 (d, J=9.0 Hz, 1H), 4.25 (q, J=7.0 Hz, 2H), 1.25 (t, J=7.0 Hz, 3H).

reactant | ethyl 5-trifluoromethoxyindole-2-carboxylic acid | 1.83 mmol, 500 mg | C(C)C1=C(NC2=CC=C(C=C12)OC(F)(F)F)C(=O)O | C12H10F3NO3
reactant | 4-iodobenzotrifluoride | 2.20 mmol, 323 mg | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | potassium phosphate | 3.84 mmol, 815 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans N,N′-dimethyl-1,2-cyclohexanediamine | 0.37 mmol, 0.058 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | copper iodide | 0.092 mmol, 17.5 mg | [Cu](I)I
product | Ethyl 5-[(trifluoromethyl)oxy]-1-[4-(trifluoromethyl)phenyl]-1H-indole-2-carboxylate | FC(OC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OCC)(F)F | C19H13F6NO3
